* General SPICE subcircuit generated by EMtoSPICE

.subckt BLM15HD102SN 1 2 ref
Vi1 1 a1 0
Vi2 2 a2 0
Ra1 a1 ref 50
Ra2 a2 ref 50
Rb1 b1 ref 1
Rb2 b2 ref 1
F1 ref b1 Vi1 1
F2 ref b2 Vi2 1
G1 ref b1 1 ref 0.02
G2 ref b2 2 ref 0.02
G1_1 ref a1 c1_1_1 ref 1
Gc1_1 ref c1_1_1 b1 ref 1
Ec1_1 d1_1_1 c1_1_1 d1_1_1 ref 2
C1_1 d1_1_1 ref 5.33719448525e-008
Rc1_1 c1_1_1 ref 0.00403438141644
Ef1_1 f1_1_1 c1_1_1 f1_1_1 g1_1_1 2
L1_1 f1_1_1 g1_1_1 4.44406049341e-013
Eg1_1 h1_1_1 g1_1_1 h1_1_1 ref 2
Rd1_1 h1_1_1 ref 0.00342558502638
G1_2 ref a1 c1_1_2 ref 1
Gc1_2 ref c1_1_2 b1 ref 1
Ec1_2 d1_1_2 c1_1_2 d1_1_2 ref 2
C1_2 d1_1_2 ref 2.06550913053e-008
Ed1_2 e1_1_2 c1_1_2 e1_1_2 ref 2
Rc1_2 e1_1_2 ref 0.953163796691
G1_3 ref a1 c1_1_3 ref 1
Gc1_3 ref c1_1_3 b1 ref 1
C1_3 c1_1_3 ref 4.08667418166e-010
Rc1_3 c1_1_3 ref 0.0881208098703
G1_4 ref a1 c1_1_4 ref 1
Gc1_4 ref c1_1_4 b1 ref 1
C1_4 c1_1_4 ref 2.61854908866e-012
Rc1_4 c1_1_4 ref 0.867810432205
G2_1 ref a1 c1_2_1 ref 1
Gc2_1 ref c1_2_1 b2 ref 1
C2_1 c1_2_1 ref 7.42362758951e-009
Rc2_1 c1_2_1 ref 0.0592090984597
L2_1 c1_2_1 g1_2_1 5.86641150672e-011
Rd2_1 g1_2_1 ref 0.0672233972487
G2_2 ref a1 c1_2_2 ref 1
Gc2_2 ref c1_2_2 b2 ref 1
C2_2 c1_2_2 ref 1.84918271357e-008
Rc2_2 c1_2_2 ref 0.953421820391
G2_3 ref a1 c1_2_3 ref 1
Gc2_3 ref c1_2_3 b2 ref 1
Ec2_3 d1_2_3 c1_2_3 d1_2_3 ref 2
C2_3 d1_2_3 ref 3.44391269717e-011
Ed2_3 e1_2_3 c1_2_3 e1_2_3 ref 2
Rc2_3 e1_2_3 ref 1.06101530794
G2_4 ref a1 c1_2_4 ref 1
Gc2_4 ref c1_2_4 b2 ref 1
C2_4 c1_2_4 ref 2.65803309065e-011
Rc2_4 c1_2_4 ref 1.07544610152
G3_1 ref a2 c2_1_1 ref 1
Gc3_1 ref c2_1_1 b1 ref 1
C3_1 c2_1_1 ref 7.42362758951e-009
Rc3_1 c2_1_1 ref 0.0592090984597
L3_1 c2_1_1 g2_1_1 5.86641150672e-011
Rd3_1 g2_1_1 ref 0.0672233972487
G3_2 ref a2 c2_1_2 ref 1
Gc3_2 ref c2_1_2 b1 ref 1
C3_2 c2_1_2 ref 1.84918271357e-008
Rc3_2 c2_1_2 ref 0.953421820391
G3_3 ref a2 c2_1_3 ref 1
Gc3_3 ref c2_1_3 b1 ref 1
Ec3_3 d2_1_3 c2_1_3 d2_1_3 ref 2
C3_3 d2_1_3 ref 3.44391269717e-011
Ed3_3 e2_1_3 c2_1_3 e2_1_3 ref 2
Rc3_3 e2_1_3 ref 1.06101530794
G3_4 ref a2 c2_1_4 ref 1
Gc3_4 ref c2_1_4 b1 ref 1
C3_4 c2_1_4 ref 2.65803309065e-011
Rc3_4 c2_1_4 ref 1.07544610152
G4_1 ref a2 c2_2_1 ref 1
Gc4_1 ref c2_2_1 b2 ref 1
Ec4_1 d2_2_1 c2_2_1 d2_2_1 ref 2
C4_1 d2_2_1 ref 5.33719448525e-008
Rc4_1 c2_2_1 ref 0.00403438141644
Ef4_1 f2_2_1 c2_2_1 f2_2_1 g2_2_1 2
L4_1 f2_2_1 g2_2_1 4.44406049341e-013
Eg4_1 h2_2_1 g2_2_1 h2_2_1 ref 2
Rd4_1 h2_2_1 ref 0.00342558502638
G4_2 ref a2 c2_2_2 ref 1
Gc4_2 ref c2_2_2 b2 ref 1
Ec4_2 d2_2_2 c2_2_2 d2_2_2 ref 2
C4_2 d2_2_2 ref 2.06550913053e-008
Ed4_2 e2_2_2 c2_2_2 e2_2_2 ref 2
Rc4_2 e2_2_2 ref 0.953163796691
G4_3 ref a2 c2_2_3 ref 1
Gc4_3 ref c2_2_3 b2 ref 1
C4_3 c2_2_3 ref 4.08667418166e-010
Rc4_3 c2_2_3 ref 0.0881208098703
G4_4 ref a2 c2_2_4 ref 1
Gc4_4 ref c2_2_4 b2 ref 1
C4_4 c2_2_4 ref 2.61854908866e-012
Rc4_4 c2_2_4 ref 0.867810432205
.ends BLM15HD102SN
